US04550105
In 30 ml of water is dissolved 1.158 g of sodium cis-3-{2-(2-chloroacetamido-4-thiazolyl)-2-[1-methyl-1-(p-nitrobenzyloxycarbonyl)ethyloxyimino]acetamido}-4-methoxycarbonyl-2-oxoazetidine-1-sulfonate (syn-isomer), and under ice-cooling and stirring, 241 mg of sodium monomethyldithiocarbamate is added. The mixture is stirred at room temperature for one hour, after which a further 241 mg of sodium monomethyldithiocarbamate is added. The mixture is further stirred for one hour. The reaction mixture is then washed with ether and concentrated under reduced pressure. The residue is chromatographed on an Amberlite XAD-II column and lyophilized to give sodium cis-3-{2-(2-amino-4-thiazolyl)-2-[1-methyl-1-(p-nitrobenzyloxycarbonyl)ethyloxyimino]acetamido}-4-methoxycarbonyl-2-oxoazetidine-1-sulfonate (syn-isomer) as a colorless powder.

reactant | sodium cis-3-{2-(2-chloroacetamido-4-thiazolyl)-2-[1-methyl-1-(p-nitrobenzyloxycarbonyl)ethyloxyimino]acetamido}-4-methoxycarbonyl-2-oxoazetidine-1-sulfonate | 1.158 g | ClCC(=O)NC=1SC=C(N1)C(C(=O)N[C@@H]1C(N([C@@H]1C(=O)OC)S(=O)(=O)[O-])=O)=NOC(C)(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C.[Na+]
reactant | sodium monomethyldithiocarbamate | 241 mg | CSC(N)=S.[Na]
reactant | sodium monomethyldithiocarbamate | 241 mg | CSC(N)=S.[Na]
solvent | water | 30 ml | O | H2O
product | sodium cis-3-{2-(2-amino-4-thiazolyl)-2-[1-methyl-1-(p-nitrobenzyloxycarbonyl)ethyloxyimino]acetamido}-4-methoxycarbonyl-2-oxoazetidine-1-sulfonate | NC=1SC=C(N1)C(C(=O)N[C@@H]1C(N([C@@H]1C(=O)OC)S(=O)(=O)[O-])=O)=NOC(C)(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C.[Na+] | InChI=1S/C21H22N6O12S2.Na/c1-21(2,19(31)38-8-10-4-6-11(7-5-10)27(32)33)39-25-13(12-9-40-20(22)23-12)16(28)24-14-15(18(30)37-3)26(17(14)29)41(34,35)36;/h4-7,9,14-15H,8H2,1-3H3,(H2,22,23)(H,24,28)(H,34,35,36);/q;+1/p-1/t14-,15-;/m0./s1
